US05932571
Synthesis of 4-(1-(4-fluorobenzyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt
Combine 1-t-butoxycarbonyl-4-(1-(4-fluorobenzyl)-1H-benzimidazol-2-yl)[1,4]diazepane (1.12 g, 2.64 mmol) and ethanol (15 mL). Add aqueous hydriodic acid (5 mL, 57%). Heat to reflux. After 1 hour, cool to ambient temperature and dilute with diethyl ether (250 mL) and stir to give a solid. Collect the solid by filtration, rinse with diethyl ether, and dry to give the title compound: Rf =0.16 (silica gel, 10% methanol/dichloromethane/0.01% concentrated aqueous ammonia.

reactant | 1-t-butoxycarbonyl-4-(1-(4-fluorobenzyl)-1H-benzimidazol-2-yl)[1,4]diazepane | 2.64 mmol, 1.12 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C24H29FN4O2
reactant | ethanol | 15 mL | C(C)O | C2H6O
reactant | hydriodic acid | 5 mL | I | HI
solvent | diethyl ether | 250 mL | C(C)OCC | C4H10O
product | 4-(1-(4-fluorobenzyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt | I.FC1=CC=C(CN2C(=NC3=C2C=CC=C3)N3CCNCCC3)C=C1 | InChI=1S/C19H21FN4.HI/c20-16-8-6-15(7-9-16)14-24-18-5-2-1-4-17(18)22-19(24)23-12-3-10-21-11-13-23;/h1-2,4-9,21H,3,10-14H2;1H
